US04581377
Diazonium salt was prepared by the same way as in Example 6 using 6.47 grams of 4-(7-amino-2-fluorenyl)-butan-2-one. The diazonium salt was dropped into a refluxing and stirring mixture of 9 ml of concentrated sulphuric acid and 150 ml of water. After being stirred for 2 hours, the mixture was cooled and crystals separated out therefrom were collected by filtration. They were washed until the washing became neutral and dried with air. The resulting crystals were subjected to a silica gel column chromatography, eluted with a 4:1 mixture of n-hexane and ethyl acetate, and the resulting crystals were recrystallized from methanol to give 4.96 grams of 4-(7-hydroxy-2-fluorenyl)-butan-2one, pale yellow crystals, m.p. 170°-170.5° C.

reactant | 4-(7-amino-2-fluorenyl)-butan-2-one | 6.47 grams | NC1=CC=C2C=3C=CC(=CC3CC2=C1)CCC(C)=O | C17H17NO
reactant | sulphuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 150 ml | O | H2O
product | 4-(7-hydroxy-2-fluorenyl)-butan-2one | 4.96 grams | OC1=CC=C2C=3C=CC(=CC3CC2=C1)CCC(C)=O | C17H16O2
